US06887868B2
Preparation of (rac)-2-[(8-iodo-2,3,5,6-tetrahydro[1,4]oxazino[2,3,4-hi]indol-6-yl)methyl]-1H-isoindole-1,3(2H)-dione
To a suspension of (rac)-2-(2,3,5,6-tetrahydro[1,4]oxazino[2,3,4-hi]indol-6-ylmethyl)-1H-isoindole-1,3(2H)-dione (0.081 g, 0.253 mmol) and silver trifluoroacetate (0.059 g, 0.266 mmol) in CHCl3 (2.0 mL) was added a solution of iodine (0.067 g, 0.266 mmol) in CHCl3 (8.0 mL) dropwise at rt. The mixture was stirred for 68 h. Silver trifluoroacetate (0.03 g, 0.136 mmol) and solution of iodine (0.035 g, 0.136 mmol) in CHCl3 (6.0 mL) were added. The mixture was stirred at rt for 4 h and added again silver trifluoroacetate (0.02 g, 0.09 mmol) and solution of iodine (0.025 g, 0.10 mmol) in CHCl3 (5.0 mL). After stirring for another 2 h, the mixture was filtered through a pad of celite and washed with CHCl3. The filtrate was washed with Na2SO3 solution and dried (MgSO4). After filtration, the filtrate was concentrated in vacuo to dryness and the residue was subjected to prep TLC (EtOAc/hexane, 1:2) to give 0.046 g (41%) of light yellow oil as the title compound: 1H NMR (400 MHz, CDCl3) δ 7.81-7.78 (m, 2 H), 7.69-7.65 (m, 2 H), 6.98 (s, 1 H), 6.86 (s, 1 H), 4.34-4.29 (m, 2 H), 3.91-3.80 (m, 2 H), 3.62-3.58 (m, 1 H), 3.24-3.14 (m, 2 H), 3.04-3.00 (m, 1 H), 2.97-2.92 (m, 1 H); MS (EI) m/z 447 (M++H).

reactant | (rac)-2-(2,3,5,6-tetrahydro[1,4]oxazino[2,3,4-hi]indol-6-ylmethyl)-1H-isoindole-1,3(2H)-dione | 0.253 mmol, 0.081 g | O1CCN2CC(C3=CC=CC1=C23)CN2C(C3=CC=CC=C3C2=O)=O | C19H16N2O3
reactant | iodine | 0.266 mmol, 0.067 g | II | I2
reactant | iodine | 0.136 mmol, 0.035 g | II | I2
reactant | iodine | 0.10 mmol, 0.025 g | II | I2
solvent | CHCl3 | 2.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 8.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 6.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 5.0 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | silver trifluoroacetate | 0.266 mmol, 0.059 g | FC(C(=O)[O-])(F)F.[Ag+]
catalyst | Silver trifluoroacetate | 0.136 mmol, 0.03 g | FC(C(=O)[O-])(F)F.[Ag+]
catalyst | silver trifluoroacetate | 0.09 mmol, 0.02 g | FC(C(=O)[O-])(F)F.[Ag+]
product | (rac)-2-[(8-iodo-2,3,5,6-tetrahydro[1,4]oxazino[2,3,4-hi]indol-6-yl)methyl]-1H-isoindole-1,3(2H)-dione | IC=1C=C2C(CN3C2=C(C1)OCC3)CN3C(C1=CC=CC=C1C3=O)=O | C19H15IN2O3
